US08236845B2
(6R)-6-Amino-5,6,7,8-tetrahydronaphthalen-1-ol
A solution of (6R)-6-[Benzyl(methyl)amino]-5,6,7,8-tetrahydronaphthalen-1-ol (4.80 g, 18.946 mmol) in THF (150 mL) was added to Pd/C (1.90 g, 10% weight of Pd on activated carbon), and the reaction mixture was stirred under H2 (g) atmosphere for 16 h. It was filtered through Celite washing with AcOEt (1×200 mL) and the solvent was concentrated off to afford 3.0 g of the title product (Rf=0.1 (20% MeOH/CH2Cl2), off-white solid, 97% yield).

reactant | (6R)-6-[Benzyl(methyl)amino]-5,6,7,8-tetrahydronaphthalen-1-ol | 18.946 mmol, 4.80 g | C(C1=CC=CC=C1)N([C@H]1CC=2C=CC=C(C2CC1)O)C | C18H21NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 1.90 g | [Pd] | Pd
product | (6R)-6-Amino-5,6,7,8-tetrahydronaphthalen-1-ol | 3.0 g, 97% yield | N[C@H]1CC=2C=CC=C(C2CC1)O | C10H13NO
